US08685969B2
16. 4-(2-Fluoro-3-(6-methyl-1-oxoisoindolin-2-yl)phenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A homogeneous, orange solution of 2-((3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-fluorophenylamino)methyl)-5-methylbenzoic acid (0.105 g, 0.194 mmol), BOP (0.257 g, 0.582 mmol), DIPEA (0.119 mL, 0.679 mmol) and N-methylmorpholine (0.192 mL, 1.746 mmol) in DMF (1.940 mL) under nitrogen was heated at 45° C. After 45 min, the reaction was cooled to room temperature, dissolved in EtOAc (75 mL) and washed with water (4×30 mL) and brine (30 mL), successively. The organic solution was dried over MgSO4 and concentrated in vacuo. It was diluted with DMF (0.3 mL) and MeOH (2 mL) and purified by reverse phase HPLC. The appropriate fractions were combined, basified with NaHCO3 (solid), and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combined extract was dried over MgSO4, and concentrated in vacuo to give the desired product (0.00758 g, 0.0144 mmol, 7.4%) as a light tan solid. LC/MS (M+H)=525.30; 1H NMR (500 MHz, DMSO-d6) δ ppm 11.69 (s, 1H), 8.31 (d, J=2.2 Hz, 1H), 7.89 (dd, J1=7.6, J2=1.7 Hz, 1H), 7.76 (d, J=2.2 Hz, 1H), 7.61-7.66 (m, 2H), 7.54-7.59 (m, 2H), 7.50-7.54 (m, 2H), 7.47 (dd, J1=8.7 Hz, J2=1.8 Hz, 1H), 7.37 (d, J=2.2 Hz, 1H), 6.77 (dd, J1=8.9 Hz, J2=2.2 Hz, 1 H), 5.03 (d, J=16.1 Hz, 1H), 4.95 (d, J=16.6 Hz, 1H), 4.15-4.19 (m, 2H), 3.69-3.74 (m, 2H), 3.33 (s, 3H), 2.44 (s, 3 H).

reactant | 2-((3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-fluorophenylamino)methyl)-5-methylbenzoic acid | 0.194 mmol, 0.105 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NCC2=C(C(=O)O)C=C(C=C2)C)F | C30H27FN4O5
reactant | BOP | 0.582 mmol, 0.257 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 0.679 mmol, 0.119 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 1.746 mmol, 0.192 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.940 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 4-(2-Fluoro-3-(6-methyl-1-oxoisoindolin-2-yl)phenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.0144 mmol, 0.00758 g, 7.4% | FC1=C(C=CC=C1N1C(C2=CC(=CC=C2C1)C)=O)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N | C30H25FN4O4
